US05932601
In substantially the same manner as in Reference Example 35, (E)-3-[4-methoxy-3-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2-propen-1-ol was subjected to oxidation with activated manganese dioxide to yield 4-methoxy-3-(5-methyl-2-phenyl-4-oxazolylmethoxy)cinnam aldehyde, which was recrystallized from ethyl acetate-ether to give pale yellow needles, m.p.136-137° C.

reactant | (E)-3-[4-methoxy-3-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2-propen-1-ol | COC1=C(C=C(C=C1)/C=C/CO)OCC=1N=C(OC1C)C1=CC=CC=C1 | C21H21NO4
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | 4-methoxy-3-(5-methyl-2-phenyl-4-oxazolylmethoxy)cinnam aldehyde | COC1=C(C=C(C=CC=O)C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C21H19NO4
